US06239284B1
6-bromo-3-coumarone is prepared in four steps from commercial 3-bromophenol. The first step consists of an O-alkylation of the 3-bromophenol by methyl bromoacetate. The saponification of the methyl 3-bromophenoxyacetate allows one to obtain 3-bromophenoxyacetic acid, which is converted into the acid chloride by the action of thionyl chloride. This is subjected to an intramolecular Friedel Craft acylation to yield 6-bromo-3-coumarone.

reactant | 3-bromophenol | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | methyl 3-bromophenoxyacetate | BrC=1C=C(OCC(=O)OC)C=CC1 | C9H9BrO3
product | 3-bromophenoxyacetic acid | BrC=1C=C(OCC(=O)O)C=CC1 | C8H7BrO3
